US05760259
8-(p-Propylphenyl)octanoic acid
This compound was synthesized from 8-(p-propylphenyl)-7-octenoic acid (1.30 g, 5 mmol) and Pd/BaSO4 (130 mg) by a hydrogenation reaction. Crystallization (petroleum ether) afforded the product (1.25 g, 95%) as white crystals (mp 42°-43° C.). IR: 3400-2500, 1705 cm-1 ; 1H-NMR: 0.95 (t, 3H), 1.45 (m, 12H), 2.50 (m, 6H), 7.05 (s, 4H), 11.40 (bs, 1H). Anal. Calcd. for C17H26O2 : C, 77.82, H, 9.99%; Found: C, 77.75, H, 10.04%.

reactant | 8-(p-propylphenyl)-7-octenoic acid | 5 mmol, 1.30 g | C(CC)C1=CC=C(C=C1)C=CCCCCCC(=O)O | C17H24O2
catalyst | Pd BaSO4 | 130 mg | [Pd].[O-]S(=O)(=O)[O-].[Ba+2]
product | 8-(p-Propylphenyl)octanoic acid | 1.25 g, 95% | C(CC)C1=CC=C(C=C1)CCCCCCCC(=O)O | C17H26O2
